US04735951
314.3 ml of a 1.4M solution of n-butyllithium in hexane were added to a solution of 30 g of 2-acetylamino pyridine in 886 ml of tetrahydrofuran. After cooling to -70° C., a solution of 32 g of 2-(1-chloropropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one [prepared by the process of Example 10 of Belgian Pat. No. 896,941] in 230 ml of tetrahydrofuran was added and the solution was poured into 500 ml of 2N hydrochloric acid and 600 ml of water. The aqueous phase was extracted with ethyl acetate and the combined organic phases were dried and concentrated to dryness under reduced pressure. The residue was taken in ethyl ether, separated and dried to obtain 9.1 g of 2-[(2-chloro-1-oxobutyl)-amino]-β-oxo-N-(2-pyridinyl)-3-trifluoromethyl benzene propanamide melting at 137° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-acetylamino pyridine | 30 g | C(C)(=O)NC1=NC=CC=C1 | C7H8N2O
reactant | 2-(1-chloropropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one | 32 g | ClC(CC)C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F | C12H9ClF3NO2
reactant | hydrochloric acid | 2N, 500 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 886 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | water | 600 ml | O | H2O
product | 2-[(2-chloro-1-oxobutyl)-amino]-β-oxo-N-(2-pyridinyl)-3-trifluoromethyl benzene propanamide | 9.1 g | ClC(C(=O)NC1=C(C=CC=C1C(F)(F)F)C(CC(=O)NC1=NC=CC=C1)=O)CC | C19H17ClF3N3O3
